US06756374B2
A mixture of 1-(4-nitrophenyl)piperazine (12 g, 57.9 mmol) (Acros Organics), powdered potassium carbonate (5.4 g, 39 mmol), iodocyclopentane(7 mL, 60.8 mmol) (Aldrich) and a catalytic amount of 18-crown-6 in acetonitrile (90 mL) was heated at reflux overnight. The mixture was filtered, and the filter cake was washed with acetonitrile. The solvent was evaporated from the combined filtrates and the residue was partitioned between water and ethyl acetate. The layers were separated and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were dried (Na2SO4), filtered, evaporated to a yellow solid and dried under vacuum to give 1-cyclopentyl-4-(4-nitrophenyl)piperazine) (6.6 g, 41%.)

reactant | 1-(4-nitrophenyl)piperazine | 57.9 mmol, 12 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | potassium carbonate | 39 mmol, 5.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodocyclopentane | 60.8 mmol, 7 mL | IC1CCCC1 | C5H9I
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | 1-cyclopentyl-4-(4-nitrophenyl)piperazine | C1(CCCC1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H21N3O2
